US07368471B2
[1-(4-Fluorobenzyl)-5-phenyl-1H-indol-3-yl](oxo)acetic acid
The title compound was prepared from 1-(4-fluorobenzyl)-5-phenyl-1H-indole and oxalyl chloride in substantially the same manner, as described in Step 3 of Example 25. The product was obtained as a light brown solid, mp: 165-166° C. Mass spectrum (ESI, [M+H]+) m/z 374. 1HNMR (400 MHz, DMSO-d6): δ 13.54 (br s, 1H), 8.73 (s, 1H), 8.42 (s, 1H), 7.68 (d, 1H, J=8.5 Hz), 7.64 (d, 2H, J=7.5 Hz), 7.58 (dd, 1H, J=8.6 Hz and 1.7 Hz), 7.47 (t, 2H, J=7.6 Hz), 7.39 (d, 1H, J=8.6 Hz), 7.37 (d, 1H, J=8.2 Hz), 7.34 (t, 1H, J=7.4 Hz), and 5.61 ppm (s, 2H). Elemental Analysis for C23H16FNO3.0.4 H2O: Calculated: C, 72.59; H, 4.45; N, 3.68. Found: C, 72.58; H, 4.29; N, 3.62.

reactant | 1-(4-fluorobenzyl)-5-phenyl-1H-indole | FC1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=CC=C2)C=C1 | C21H16FN
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | H2O | O | H2O
product | [1-(4-Fluorobenzyl)-5-phenyl-1H-indol-3-yl](oxo)acetic acid | FC1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=CC=C2)C(C(=O)O)=O)C=C1 | C23H16FNO3
